US08455483B2
a) (2-Isopropylthiazol-4-yl)(1-oxa-4,9-diazaspiro[5.5]undecan-4-yl)methanone hydrochloride
A solution of 2-isopropylthiazole-4-carboxylic acid (12 g) and tert-butyl 1-oxa-4,9-diazaspiro[5.5]undecane-9-carboxylate hydrochloride [WuXi PharmaTech] (20 g) in 2-methyltetrahydrofuran (140 mL) was cooled in ice-water and treated with triethylamine (47 mL), followed by T3P (1.6M in THF, 54 mL). The mixture was allowed to warm to RT and was stirred for 1 h. Water (140 mL) was added with stirring, then the phases were separated. The organic phase was washed with water (80 mL), and then concentrated to a volume of (˜100 mL) under reduced pressure using a temperature of <30° C. IPA (75 mL) was added, and the mixture was concentrated to a volume of (˜100 mL). More IPA (75 mL) was added, and the mixture was again concentrated to a volume of (˜100 mL). A solution of hydrogen chloride in IPA (˜6M, 81 mL) was added with cooling in ice-water, then the mixture was warmed to 40° C. and stirred for 3.5 h. The mixture was cooled to RT, diluted with MTBE (34 mL) and stirred for 30 min. The resulting precipitated solid was removed by filtration and dried in a vacuum oven at 55° C. overnight. Yield 20.5 g.

reactant | 2-isopropylthiazole-4-carboxylic acid | 12 g | C(C)(C)C=1SC=C(N1)C(=O)O | C7H9NO2S
reactant | tert-butyl 1-oxa-4,9-diazaspiro[5.5]undecane-9-carboxylate hydrochloride | 20 g | Cl.O1CCNCC12CCN(CC2)C(=O)OC(C)(C)C
reactant | triethylamine | 47 mL | C(C)N(CC)CC | C6H15N
reactant | T3P | 1.6M, 54 mL | C(CC)P1(OP(OP(O1)(=O)CCC)(=O)CCC)=O | C9H21O6P3
solvent | 2-methyltetrahydrofuran | 140 mL | CC1OCCC1 | C5H10O
solvent | Water | 140 mL | O | H2O
product | (2-Isopropylthiazol-4-yl)(1-oxa-4,9-diazaspiro[5.5]undecan-4-yl)methanone hydrochloride | Cl.C(C)(C)C=1SC=C(N1)C(=O)N1CCOC2(C1)CCNCC2 | InChI=1S/C15H23N3O2S.ClH/c1-11(2)13-17-12(9-21-13)14(19)18-7-8-20-15(10-18)3-5-16-6-4-15;/h9,11,16H,3-8,10H2,1-2H3;1H
